US05489693
1-(1-Amidinopiperid-4-yl)-4-methoxy-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-3-pyrrolin-2-one
Prepared from 4-methoxy-3-[4-(2-methoxycarbonyl-ethyl)phenyl]-1-(piperid-4-yl)-3-pyrrolin-2-one and S-ethylisothiourea-hydrobromide by heating to 100° C. for 4 hours in dimethylformamide in the presence of sodium carbonate.

reactant | 4-methoxy-3-[4-(2-methoxycarbonyl-ethyl)phenyl]-1-(piperid-4-yl)-3-pyrrolin-2-one | COC1=C(C(N(C1)C1CCNCC1)=O)C1=CC=C(C=C1)CCC(=O)OC | C20H26N2O4
reactant | S-ethylisothiourea-hydrobromide | Br.C(C)SC(N)=N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(1-Amidinopiperid-4-yl)-4-methoxy-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-3-pyrrolin-2-one | C(N)(=N)N1CCC(CC1)N1C(C(=C(C1)OC)C1=CC=C(C=C1)CCC(=O)OC)=O | C21H28N4O4
